US07410963B2
3-[8-Methoxy-7-(2-methoxy-phenyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-bromo-8-methoxy-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 5 using the same method described for Example 1 and instead of using benzene boronic acid, we used 2-methoxy-benzene boronic acid. The title compound (474 mg) was obtained as a pale yellow solid, (yield=88%).

reactant | 3-(7-bromo-8-methoxy-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(NC(CN=C2C=2C=C(C#N)C=CC2)=O)C=C1OC | C17H12BrN3O2
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-methoxy-benzene boronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 3-[8-Methoxy-7-(2-methoxy-phenyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 474 mg, yield=88% | COC=1C(=CC2=C(NC(CN=C2C=2C=C(C#N)C=CC2)=O)C1)C1=C(C=CC=C1)OC | C24H19N3O3
